US03971778
A suspension of 2-phenoxyimino-2-phenylacetic acid (464mg) in dry methylene dichloride (25ml) was added, over 5 minutes, to a stirred solution of diphenylmethyl 7β-amino-3-(1-methyltetrazol-5-ylthiomethyl)-ceph-3-em-4-carboxylate (989mg) and dicyclohexylcarbodiimide (454mg) in methylene dichloride (25ml). After stirring for a further 2 hours, the solvent was evaporated in vacuo; the residue was suspended in ethyl acetate (60 ml), the insoluble material filtered off, and the filtrate washed with saturated sodium bicarbonate:water = 1:1, water, and brine (30 ml of each), dried, and evaporated to a foam (1.56g). A solution of this foam in benzene (10 ml) was purified by chromatography on kieselgel (60g), with benzene:ethyl acetate = 10:1 as eluant. Appropriate fractions were combined and evaporated to dryness in vacuo to give diphenylmethyl 3-(1-methyltetrazol-5-ylthiomethyl)-7β-[2-phenoxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylate (syn-isomer) as an orange foam (1.16g, 87%). A solution of this foam in a mixture of trifluoroacetic acid (4ml) and anisole (1ml) was kept at 23° for 5 minutes, and the solvents were removed at 40° (2mm). The residue was suspended in ether (80 ml), saturated sodium bicarbonate:water = 1:3 (120ml) was added, and the mixture was stirred until all the solid had dissolved (ca. 10 minutes). The aqueous phase was separated, covered with ethyl acetate (150 ml), and acidified to pH 2 with 2N-hydrochloric acid. The organic phase was separated, washed with water, and brine (50ml of each), and the solvent evaporated in vacuo. The residue was dissolved in acetone (50ml), the solution stirred for 5 minutes with charcoal (ca. 1g), and the mixture filtered through a pad of kieselguhr. The filtrate was dried and evaporated to a foam (780mg), which was dissolved in ethyl acetate, and the solution run into petroleum ether to give the title acid as a colourless, amorphous solid (640mg, 63.3%); [α]D23 - 64° (c 1.01, acetone); λmax. (0.1 M -pH 6 phosphate buffer) 261 nm. (ε 19,200); τ (DMSO-d6) values include -0.11 (NH, d, J 8 Hz.), 4.00 (7--H, dd, J 5 and 8 Hz.), 4.70 (6-H, d, J 5 Hz), and 6.04 (CH3 -).

reactant | 2-phenoxyimino-2-phenylacetic acid | 464mg | O(C1=CC=CC=C1)N=C(C(=O)O)C1=CC=CC=C1 | C14H11NO3
reactant | diphenylmethyl 7β-amino-3-(1-methyltetrazol-5-ylthiomethyl)-ceph-3-em-4-carboxylate | 989mg | N[C@H]1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | dicyclohexylcarbodiimide | 454mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene dichloride | 25ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 25ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 3-(1-methyltetrazol-5-ylthiomethyl)-7β-[2-phenoxyimino-2-phenylacetamido]-ceph-3-em-4-carboxylate | 1.16g, 87% | CC(C=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C2=CC=CC=C2)=NOC2=CC=CC=C2)=O)=O)SC2=NN=NN2 | C37H31N7O5S2
